US08541449B2
1-(1,4-Dioxa-spiro[4.5]dec-8-yl)-1-phenyl-ethylamine (26)
Under argon, phenylmagnesium bromide (3M) in diethyl ether (6.7 mL, 20 mmol) was added to a solution of 1,4-dioxa-spiro[4.5]decane-8-carbonitrile (3.34 g, 20 mmol) in diethyl ether (60 mL). The mixture was stirred for 30 minutes. Titanium (IV) isopropoxide (5.7 g, 20 mmol) was then added. After stirring for 5 min, methyl lithium (1.6 M in diethyl ether, 31.2 mL, 50 mmol) was added and the reaction was heated under reflux for 10 hours. After cooling in ice/water the brown mixture was treated cautiously with 2M NaOH solution (30 mL) dropwise (exothermic). The mixture was extracted with t-butyl methyl ether and dried over sodium sulphate. After filtration the organic phase was evaporated to give 5 g of a pale yellow oil, which was used in the next step without further purification. Rt=2.10 min (Method 2). Detected mass: 261.2 (M+H+).

reactant | phenylmagnesium bromide | 3M | C1(=CC=CC=C1)[Mg]Br
reactant | 1,4-dioxa-spiro[4.5]decane-8-carbonitrile | 20 mmol, 3.34 g | O1CCOC12CCC(CC2)C#N | C9H13NO2
reactant | methyl lithium | 50 mmol, 1.6 M, 31.2 mL | C[Li]
reactant | NaOH | 2M, 30 mL | [OH-].[Na+]
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
catalyst | Titanium (IV) isopropoxide | 20 mmol, 5.7 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | diethyl ether | 20 mmol, 6.7 mL | C(C)OCC | C4H10O
product | 1-(1,4-Dioxa-spiro[4.5]dec-8-yl)-1-phenyl-ethylamine | 5 g | O1CCOC12CCC(CC2)C(C)(C2=CC=CC=C2)N | C16H23NO2
